US06380387B1
N-[(2-fluoro-6-(trifluoromethyl)phenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine was prepared from 4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester and 2-fluoro-6-(trifluoromethyl)benzoic acid using the general procedures described in example 7 and was obtained as a white solid: mp 218-220° C. ES-HRMS m/e calcd for C25H23F4N3O5 (M+Na) 530.1310, found 530.1317.

reactant | 4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | C17H21N3O4
reactant | 2-fluoro-6-(trifluoromethyl)benzoic acid | FC1=C(C(=O)O)C(=CC=C1)C(F)(F)F | C8H4F4O2
product | N-[(2-fluoro-6-(trifluoromethyl)phenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine | FC1=C(C(=CC=C1)C(F)(F)F)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)O | C24H21F4N3O5
